### PR TITLE
[Merged by Bors] - feat(NumberTheory/ModularForms/EisensteinSeries/E2/Transform): E2 under the action of SL2

### PR DESCRIPTION
**Pull request by CBirkbeck**
We show how E2 transforms under the slash action of SL2.

---

- [x] depends on : #32584 
- [x] depends on : #32955 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by CBirkbeck** [comment]
This is still a bit rough, but some quick opinions would be useful.

**Comment by loefflerd** [comment]
> This is still a bit rough, I don't know if there are too many auxiliary lemmas

Yes, there are a lot of auxiliary lemmas, and the PR as a whole is very long (I wondered if my "bounds" PR was too long but this is 60% longer). Can you split it into pieces (maybe one PR for all the little changes outside the E2 directory and a second  for the two main files)?

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean [hunk 1]
```diff
@@ -120,6 +120,14 @@ lemma I_re : I.re = 0 := rfl
...
 lemma coe_I : I = Complex.I := rfl
 
+open Complex in
+lemma pnat_div_upperHalfPlane_im_pos (n : ℕ+) (z : ℍ) : 0 < (-(n : ℂ) / z).im := by
+  simp only [div_im, neg_im, natCast_im, neg_zero, coe_re, zero_mul, zero_div, neg_re, natCast_re,
+    coe_im, neg_mul, zero_sub, Left.neg_pos_iff, div_neg_iff, Left.neg_neg_iff, Nat.cast_pos,
+    PNat.pos, mul_pos_iff_of_pos_left, Complex.normSq_pos, ne_eq]
+  right
+  simpa using ⟨z.2, ne_zero z⟩
+
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean]:
```suggestion
```
This lemma was in #32955, but got renamed to `im_pnat_div_pos` in the review process. Please remove the duplicate.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 2]
```diff
@@ -90,4 +95,202 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    conv at this =>
+      enter [1, n]
+      rw [show ((n : ℂ) + 1) = (n + 1 : ℕ) by norm_cast]
+    rw [summable_nat_add_iff (f := fun n ↦ (-d / (z : ℂ) - n)⁻¹ + (-d / (z : ℂ) + n)⁻¹)] at this
+    exact Summable.subtype this (Nat.succ 0).le
+
+private lemma aux_tendsto_tsum_cexp_pnat :
+    Tendsto (fun N : ℕ+ ↦ ∑' (n : ℕ+), cexp (2 * π * I * (-N / z)) ^ (n : ℕ)) atTop (𝓝 0) := by
+  have := tendsto_zero_geometric_tsum_pnat (UpperHalfPlane.norm_exp_two_pi_I_lt_one ⟨-1 / z,
+    by simpa using (pnat_div_upperHalfPlane_im_pos 1 z)⟩)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
    by simpa using im_pnat_div_pos 1 z⟩)
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 3]
```diff
@@ -90,4 +95,202 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+  suffices Tendsto (fun n : ℕ+ ↦ (2 / (z : ℂ) * ∑' (m : ℕ+),
+      (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m)))) atTop (𝓝 (-2 * π * I / z)) by
+    rw [← tendsto_comp_val_Ioi_atTop]
+    exact this
+  have H0 : (fun n : ℕ+ ↦ (2 / z * ∑' (m : ℕ+), (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m)))) =
+      (fun N : ℕ+ ↦ (-2 * π * I / z) - (2 / z * (2 * π * I)) *
+      (∑' n : ℕ+, cexp (2 * π * I * (-N / z)) ^ (n : ℕ)) + 2 / N) := by
+    ext N
+    have h2 := cot_series_rep (UpperHalfPlane.coe_mem_integerComplement
+      (⟨-N / z, pnat_div_upperHalfPlane_im_pos N z⟩))
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
      (⟨-N / z, im_pnat_div_pos N z⟩))
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 4]
```diff
@@ -90,4 +95,202 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    rw [pi_mul_cot_pi_q_exp, ← sub_eq_iff_eq_add',coe_mk_subtype, one_div, inv_div, neg_mul] at *
+    rw [← h2, ← tsum_zero_pnat_eq_tsum_nat
+      (by simpa using norm_exp_two_pi_I_lt_one ⟨-N / z, pnat_div_upperHalfPlane_im_pos N z⟩)]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
      (by simpa using norm_exp_two_pi_I_lt_one ⟨-N / z, im_pnat_div_pos N z⟩)]
```

**Review by loefflerd — COMMENTED** [review]
Hi Chris, happy new year! It looks like a lemma accidentally got duplicated when merging updated master into this PR post #32955.

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean (hunk 1 above)
Comment (CBirkbeck) [reply Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean]: Oh ha yes I just saw this. Its fixed now :)

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 5]
```diff
@@ -15,6 +15,28 @@ public import Mathlib.NumberTheory.ModularForms.EisensteinSeries.QExpansion
 We collect here lemmas about the summability of the Eisenstein series `E2` that will be used to
 prove how it transforms under the slash action.
 
+## Main Results
+
+The key results concern the difference between two different orders of summation for the
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean:20]: I think this info section is really nice!

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 6]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+  apply this.congr (fun m ↦ ?_)
+  grind [one_div_linear_sub_one_div_linear_eq z a b m (by grind)]
+
+lemma summable_right_one_div_linear_sub_one_div_linear_succ (a : ℤ) :
+    Summable fun b : ℤ ↦ 1 / ((a : ℂ) * z + b) - 1 / ((a : ℂ) * z + b + 1) := by
+  have := summable_linear_right_add_one_mul_linear_right z a a
+  rw [← Finset.summable_compl_iff (s := {0, -1})] at *
+  apply this.congr (fun b ↦ ?_)
+  simpa [add_assoc, mul_comm] using
+    (one_div_linear_sub_one_div_linear_eq z b (b + 1) a (by grind)).symm
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
lemma summable_right_one_div_linear_sub_one_div_linear_succ (m : ℤ) :
    Summable fun b : ℤ ↦ 1 / (m * (z : ℂ) + b) - 1 / (m * z + b + 1) := by
  have := summable_linear_right_add_one_mul_linear_right z m m
  rw [← Finset.summable_compl_iff (s := {0, -1})] at *
  apply this.congr (fun b ↦ ?_)
  simpa [add_assoc, mul_comm] using
    (one_div_linear_sub_one_div_linear_eq z b (b + 1) m (by grind)).symm
```
(re-labelling variables for consistency with previous lemma)

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 7]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+
+/- Acting by `S` (which sends `z` to `-z ⁻¹`) swaps the sums and pulls out a factor of
+`(z ^ 2)⁻¹`. -/
+private lemma aux_sum_Ico_S_identity (N : ℕ) :
+    ((z : ℂ) ^ 2)⁻¹ * (∑ x ∈ Ico (-N : ℤ) N, ∑' (n : ℤ), (((x : ℂ) * (-↑z)⁻¹ + n) ^ 2)⁻¹) =
+    ∑' (n : ℤ), ∑ x ∈ Ico (-N : ℤ) N, (((n : ℂ) * z + x) ^ 2)⁻¹ := by
+  simp_rw [inv_neg, mul_neg]
+  rw [Finset.mul_sum, Summable.tsum_finsetSum
+    (by apply fun (i : ℤ) hi => linear_left_summable (ne_zero z) i (k := 2) (by omega))]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  simp_rw [inv_neg, mul_neg, mul_sum]
  rw [Summable.tsum_finsetSum (fun i hi ↦ by apply linear_left_summable (ne_zero z) i le_rfl)]
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 8]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+
+lemma tendsto_double_sum_S_act :
+    Tendsto (fun N : ℕ ↦ (∑' (n : ℤ), ∑ m ∈ Ico (-N : ℤ) N, (1 / ((n : ℂ) * z + m) ^ 2))) atTop
+    (𝓝 ((z.1 ^ 2)⁻¹ * G2 (S • z))) := by
+  rw [G2_eq_tsum_symmetricIco, ← tsum_mul_left]
+  have := ((summable_e2Summand_symmetricIco (S • z)).mul_left (z.1 ^ 2)⁻¹).hasSum
+  simp only [HasSum, symmetricIco, tendsto_map'_iff, modular_S_smul, ← Nat.map_cast_int_atTop] at *
+  apply this.congr (fun N ↦ ?_)
+  simpa [UpperHalfPlane.coe, e2Summand, eisSummand, UpperHalfPlane.mk, ← mul_sum]
+    using (aux_sum_Ico_S_identity z N)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  simpa [e2Summand, eisSummand, ← mul_sum] using aux_sum_Ico_S_identity z N
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 9]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+
+lemma tsum_symmetricIco_tsum_eq_S_act :
+    ∑'[symmetricIco ℤ] n : ℤ, ∑' m : ℤ, 1 / ((m : ℂ) * z + n) ^ 2 =
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean:164]: Reading this I wonder if the type argument to `symmetricIco` etc should have been implicit, but that's orthogonal to the present PR.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 10]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    ((z : ℂ) ^ 2)⁻¹ * G2 (S • z) := by
+  apply HasSum.tsum_eq
+  rw [hasSum_symmetricIco_int_iff]
+  apply (tendsto_double_sum_S_act z).congr (fun x ↦ ?_)
+  rw [Summable.tsum_finsetSum]
+  exact fun i hi => by simpa using linear_left_summable (ne_zero z) (i : ℤ) (k := 2) (by omega)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  exact fun i hi ↦ by simpa using linear_left_summable (ne_zero z) i le_rfl
```
I don't think we need `omega` to tell us that `2 ≤ 2`; and doing it this way avoids having to specify `k`.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 11]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    1 / (m * z - b) - 1 / (m * z + b) := by
+  induction b with
+  | zero => aesop
+  | succ b ihb =>
+    simp only [Nat.cast_add, Nat.cast_one, one_div, Finset.sum_sub_distrib] at *
+    rw [Ico_succ_succ, Finset.sum_union (by simp), Finset.sum_union (by simp),
+      Finset.sum_pair (by grind), Finset.sum_pair (by grind), add_sub_add_comm]
+    simp only [ihb, neg_add_rev, Int.reduceNeg, Int.cast_add, Int.cast_neg, Int.cast_one,
+      Int.cast_natCast]
+    ring
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: I'd suggest splitting this up:
```suggestion
private lemma telescope_aux' (b : ℕ)  {α : Type*} [AddCommGroup α] (f : ℤ → α) :
    ∑ n ∈ Ico (-b : ℤ) b, (f n - f (n + 1)) = f (-b) - f b := by
  induction b with
  | zero => aesop
  | succ b ihb =>
    simp only [Nat.cast_add_one, Ico_succ_succ]
    rw [sum_union (by aesop), sum_insert (by grind), sum_singleton, ihb]
    grind

private lemma telescope_aux (z : ℂ) (m : ℤ) (b : ℕ) :
    ∑ n ∈ Ico (-b : ℤ) b, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1)) =
    1 / (m * z - b) - 1 / (m * z + b) := by
  convert telescope_aux' b (fun n ↦ 1 / ((m : ℂ) * z + n)) using 2 <;>
  simp [add_assoc, sub_eq_add_neg]
```
Then the first lemma (my `telescope_aux'`) is actually something that might be re-usable; indeed it is very close to being an `Int` version of the existing `Nat` lemma [Finset.sum_Ico_sub](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Intervals.html#Finset.sum_Ico_sub).

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 12]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+
+lemma tsum_symmetricIco_linear_sub_linear_add_one_eq_zero (m : ℤ) :
+    ∑'[symmetricIco ℤ] n : ℤ, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1)) = 0 := by
+  apply HasSum.tsum_eq
+  simp_rw [hasSum_symmetricIco_int_iff, telescope_aux z m]
+  simpa using Filter.Tendsto.sub (tendsto_zero_inv_linear_sub z m) (tendsto_zero_inv_linear z m)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  simpa using (tendsto_zero_inv_linear_sub z m).sub (tendsto_zero_inv_linear z m)
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 13]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    ∑' m : ℕ+, (1 / ((m : ℂ) * z - d) + 1 / (-m * z + -d) - 1 / (m * z + d) -1 / (-m * z + d)) := by
+  rw [eq_neg_add_iff_add_eq (b := 2 / (d : ℂ)), tsum_int_eq_zero_add_tsum_pnat]
+  · simp only [Int.cast_zero, zero_mul, zero_sub, one_div, zero_add, Int.cast_natCast, Int.cast_neg,
+      neg_mul]
+    ring_nf
+    rw [← Summable.tsum_add]
+    · grind
+    · apply (summable_pnat_iff_summable_nat.mpr ((summable_int_iff_summable_nat_and_neg.mp
+        (summable_left_one_div_linear_sub_one_div_linear z (-d) d)).1)).congr
+      grind [Int.cast_natCast, Int.cast_neg, one_div]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
      grind [Int.cast_natCast]
```
I'm not sure what lemmas `grind` knows; less than `simp`, but more than nothing. Similarly elsewhere in this proof.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 14]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    · apply (summable_pnat_iff_summable_nat.mpr ((summable_int_iff_summable_nat_and_neg.mp
+        (summable_left_one_div_linear_sub_one_div_linear z (-d) d)).2)).congr
+      grind [Int.cast_neg, Int.cast_natCast, neg_mul, one_div]
+  · apply (summable_left_one_div_linear_sub_one_div_linear z (-d) d).congr
+    grind [Int.cast_neg, Int.cast_natCast, one_div, sub_left_inj, inv_inj]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  · simpa using summable_left_one_div_linear_sub_one_div_linear z (-d) d
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 15]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+  simpa using Filter.Tendsto.sub (tendsto_zero_inv_linear_sub z m) (tendsto_zero_inv_linear z m)
+
+/- We split the sum over `ℤ` into a sum over `ℕ+` but of four terms.-/
+private lemma aux_tsum_identity_1 (d : ℕ+) :
+    ∑' (m : ℤ), (1 / ((m : ℂ) * z - d) - 1 / (m * z + d)) = -(2 / d) +
+    ∑' m : ℕ+, (1 / ((m : ℂ) * z - d) + 1 / (-m * z + -d) - 1 / (m * z + d) -1 / (-m * z + d)) := by
+  rw [eq_neg_add_iff_add_eq (b := 2 / (d : ℂ)), tsum_int_eq_zero_add_tsum_pnat]
+  · simp only [Int.cast_zero, zero_mul, zero_sub, one_div, zero_add, Int.cast_natCast, Int.cast_neg,
+      neg_mul]
+    ring_nf
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean:191]: I'm slightly uneasy about non-terminal uses of `ring_nf`. I know it's supposed to be consistent in its ordering of terms; but the algorithm it uses to generate a consistent ordering is mysterious to me, and that makes me nervous that it might change in future. But it's clearly documented that this is supposed to work, and writing down the goal explicitly would be very painful here, so I think there's no choice.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 16]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    grind [Int.cast_neg, Int.cast_natCast, one_div, sub_left_inj, inv_inj]
+
+/- The sum of four terms can now be combined into a sum where `z` has changed for `-1 / z`.-/
+private lemma aux_tsum_identity_2 (d : ℕ+) :
+    ∑' m : ℕ+, (1 / ((m : ℂ) * z - d) + 1 / (-m * z + -d) - (1 / (m * z + d)) -
+    1 / (-m * z + d)) = 2 / z * ∑' m : ℕ+, (1 / (-(d : ℂ) / z - m) + 1 / (-d / z + m)) := by
+  rw [← Summable.tsum_mul_left]
+  · apply tsum_congr (fun m ↦ by grind [sub_eq_add_neg, ← div_neg, ne_zero z])
+  · have := (Summable_cotTerm (x := -d / (z : ℂ))
+      (by simpa using UpperHalfPlane.int_div_mem_integerComplement z (n := -d) (by aesop)))
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  · have := Summable_cotTerm (by simpa using z.int_div_mem_integerComplement (n := -d) (by aesop))
```
Also the capitalization is inconsistent: `Summable_cotTerm` is a proof of summability, not a statement of summability, so it should be lowercase – please change it wherever it's defined and here to match.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 17]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    simp only [cotTerm, one_div] at *
+    conv at this =>
+      enter [1, n]
+      rw [show ((n : ℂ) + 1) = (n + 1 : ℕ) by norm_cast]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
    simp only [← Nat.cast_add_one] at this
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 18]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    rw [summable_nat_add_iff (f := fun n ↦ (-d / (z : ℂ) - n)⁻¹ + (-d / (z : ℂ) + n)⁻¹)] at this
+    exact Summable.subtype this (Nat.succ 0).le
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: Isn't `Nat.succ 0` a complicated way to write "1"? But better still,
```suggestion
    apply this.subtype
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 19]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+
+private lemma aux_tendsto_tsum_cexp_pnat :
+    Tendsto (fun N : ℕ+ ↦ ∑' (n : ℕ+), cexp (2 * π * I * (-N / z)) ^ (n : ℕ)) atTop (𝓝 0) := by
+  have := tendsto_zero_geometric_tsum_pnat (UpperHalfPlane.norm_exp_two_pi_I_lt_one ⟨-1 / z,
+    by simpa using (im_pnat_div_pos 1 z)⟩)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  have := tendsto_zero_geometric_tsum_pnat (norm_exp_two_pi_I_lt_one ⟨_, im_pnat_div_pos 1 z⟩)
```

**Review by loefflerd — COMMENTED** [review]
First instalment, more later.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 20]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+  simp only [coe_mk_subtype, ← exp_nsmul, nsmul_eq_mul, Nat.cast_mul] at *
+  exact this.congr fun n ↦ by grind
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  exact this.congr <| by grind
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 21]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+
+/- Now this sum of terms with `-1 / z` tendsto `-2 * π * I / z` which is exactly `D2_S`. The key is
+to use the cotangent series to write this as a sum of exponentials.-/
+private lemma aux_tendsto_tsum : Tendsto (fun n : ℕ ↦ 2 / z *
+    ∑' (m : ℕ+), (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m))) atTop (𝓝 (-2 * π * I / z)) := by
+  suffices Tendsto (fun n : ℕ+ ↦ (2 / (z : ℂ) * ∑' (m : ℕ+),
+      (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m)))) atTop (𝓝 (-2 * π * I / z)) by
+    rw [← tendsto_comp_val_Ioi_atTop]
+    exact this
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
    rwa [← tendsto_comp_val_Ioi_atTop]
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 22]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+  have H0 : (fun n : ℕ+ ↦ (2 / z * ∑' (m : ℕ+), (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m)))) =
+      (fun N : ℕ+ ↦ (-2 * π * I / z) - (2 / z * (2 * π * I)) *
+      (∑' n : ℕ+, cexp (2 * π * I * (-N / z)) ^ (n : ℕ)) + 2 / N) := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: This is a bit confusing because on the LHS the "outer" variable is `n` and the "inner' one is `m`, and on the RHS the outer is `N` and the inner is `n`. Please be consistent with the "outer" variables at least.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 23]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    have h2 := cot_series_rep (UpperHalfPlane.coe_mem_integerComplement
+      (⟨-N / z, im_pnat_div_pos N z⟩))
+    rw [pi_mul_cot_pi_q_exp, ← sub_eq_iff_eq_add',coe_mk_subtype, one_div, inv_div, neg_mul, ← h2,
+      ← tsum_zero_pnat_eq_tsum_nat
+      (by simpa using norm_exp_two_pi_I_lt_one ⟨-N / z, im_pnat_div_pos N z⟩)] at *
+    grind [ne_zero z]
+  rw [H0]
+  nth_rw 2 [show -2 * π * I / z = (-2 * π * I / z) - (2 / z * (2 * π * I)) * 0 + 2 * 0 by ring]
+  apply Tendsto.add (Tendsto.sub (by simp) ((aux_tendsto_tsum_cexp_pnat z).const_mul _))
+  apply Tendsto.const_mul
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  refine aux_tendsto_tsum_cexp_pnat z |>.const_mul _ |>.const_sub _ |>.add (.const_mul _ ?_)
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 24]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+  simpa using tendsto_comp_val_Ioi_atTop.mpr (tendsto_zero_inv_linear z 0)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  exact tendsto_comp_val_Ioi_atTop.mpr tendsto_inv_atTop_nhds_zero_nat
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 25]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    ext n
+    rw [Summable.tsum_finsetSum (fun i hi ↦ ?_)]
+    apply (summable_left_one_div_linear_sub_one_div_linear z (i : ℤ) (i + 1 : ℤ)).congr
+    grind [one_div, Int.cast_add, Int.cast_one, sub_right_inj, inv_inj]
+  conv at this =>
+    enter [2, n]
+    conv =>
+      enter [1, m]
+      rw [telescope_aux z]
+    rw [show (n : ℂ) = (n : ℕ+) by simp, aux_tsum_identity_1 z]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  simp only [telescope_aux z, aux_tsum_identity_1 z] at this
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 26]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+  rw [this, show -2 * π * I / z = 0 + -2 * π * I / z by ring]
+  apply Tendsto.add
+  · have : Tendsto (fun x : ℕ ↦ -(2 / (x : ℂ))) atTop (𝓝 0) := by
+      simpa [tendsto_zero_iff_norm_tendsto_zero] using Tendsto.const_div_atTop
+        (g := fun n : ℕ ↦ ‖(n : ℂ)‖) (r := 2) (by simpa using tendsto_natCast_atTop_atTop)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  · exact tendsto_comp_val_Ioi_atTop.mpr <| 
      by simpa using (tendsto_inv_atTop_nhds_zero_nat (𝕜 := ℂ)).const_mul (-2)
```
Some of the proofs here are a bit awkward (here and elsewhere in this file) because you are using `tendsto_comp_val_Ioi_atTop` with `ℕ+` arguments, relying on the defeq that `ℕ+ = ↑(Set.Ioi 0)` (which `rw` and `simp` cannot see through). I wonder if it would be better to have a version of `tendsto_comp_val_Ioi_atTop` stated for the `ℕ+` case (maybe `PNat.tendsto_comp_val_iff` or something).

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 27]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    exact tendsto_comp_val_Ioi_atTop.mpr this
+  · simp_rw [aux_tsum_identity_2]
+    exact tendsto_comp_val_Ioi_atTop.mpr (aux_tendsto_tsum z)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  · simpa only [aux_tsum_identity_2] using tendsto_comp_val_Ioi_atTop.mpr (aux_tendsto_tsum z)
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 28]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+order of the sum it tends to `0` instead. -/
+lemma tendsto_tsum_one_div_linear_sub_succ_eq :
+    Tendsto (fun N : ℕ+ ↦ ∑ n ∈ Ico (-N : ℤ) N,
+    ∑' m : ℤ, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) atTop (𝓝 (-2 * π * I / z)) := by
+  have : (fun N : ℕ+ ↦ ∑ n ∈ (Ico (-N : ℤ) N),
+      ∑' m : ℤ , (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) = (fun N : ℕ+ ↦
+      ∑' m : ℤ , ∑ n ∈ Ico (-N : ℤ) N, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) := by
+    ext n
+    rw [Summable.tsum_finsetSum (fun i hi ↦ ?_)]
+    apply (summable_left_one_div_linear_sub_one_div_linear z (i : ℤ) (i + 1 : ℤ)).congr
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: `i` is already in `ℤ`, you don't need the type annotation 
```suggestion
    apply (summable_left_one_div_linear_sub_one_div_linear z i (i + 1)).congr
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 29]
```diff
@@ -90,4 +112,195 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    grind [one_div, Int.cast_add, Int.cast_one, sub_right_inj, inv_inj]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
    grind
```
(could inline into prev line)

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 30]
```diff
@@ -0,0 +1,250 @@
...
+  `G₂|[2] γ = G₂ - D₂(γ)`
+
+  where `D₂(γ)` is a correction term satisfying a cocycle condition.
+
+* **`E2_slash_action`**: The normalized version:
+  `E₂|[2] γ = E₂ - (1/(2ζ(2))) D₂(γ)`
+
+## Proof Strategy
+
+The proof of `G2_S_transform` is the heart of this file. The strategy is:
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean:43]: I think you should give a citation here (to Serre's book or whatever else it is you are following for this proof).

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 31]
```diff
@@ -0,0 +1,250 @@
...
+private lemma δ_eq : δ ![0,0] = 1 := by simp [δ]
+
+@[simp]
+private lemma δ_eq_two : δ ![0, -1] = 2 := by simp [δ]
+
+/-- This term gives an alternative infinite sum for G2 which is absolutely convergent. -/
+abbrev G2Term (z : ℍ) (m : Fin 2 → ℤ) : ℂ :=
+    (((m 0 : ℂ) * z + m 1) ^ 2 * (m 0 * z + m 1 + 1))⁻¹ + δ m
+
+--Do we have this already? if not where should this go?
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: There are all sorts of ways of building it (e.g. via `Fin.rev`, or via `finTwoArrowEquiv` and `Prod.swap`), but I don't think this precise thing exists yet.

You don't really need to create `swap` and `swap_equiv` separately. If you just do
```lean
def piFinTwoSwap {α : Type*} : Equiv.Perm (Fin 2 → α) where
  toFun b := ![b 1, b 0]
  invFun b := ![b 1, b 0]
  left_inv b := by ext i; fin_cases i <;> rfl
  right_inv b := by ext i; fin_cases i <;> rfl
```
then you have the equiv directly and you can use where you were using either `swap` or `swap_equiv` before.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 32]
```diff
@@ -0,0 +1,250 @@
...
+
+/-- An equivalence between `Fin 2 → α` and itself given by swapping the two co-ordinates -/
+def swap_equiv {α : Type*} : Equiv (Fin 2 → α) (Fin 2 → α) := Equiv.mk swap swap
+  (by rw [Function.LeftInverse]; apply swap_involutive)
+  (by rw [Function.RightInverse]; apply swap_involutive)
+
+section transform
+
+lemma G2Term_summable (z : ℍ) : Summable fun m ↦ G2Term z m := by
+  have H : Summable (fun m ↦ (G2Term z m) - δ m) := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion
lemma G2Term_summable (z : ℍ) : Summable (G2Term z) := by
  have H : Summable fun m ↦ G2Term z m - δ m := by
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 33]
```diff
@@ -0,0 +1,250 @@
...
+    (δ ![b, n]) + (((b : ℂ) * z + n)⁻¹ - ((b : ℂ) * z + n + 1)⁻¹) = (((b : ℂ) * z + n) ^ 2)⁻¹ := by
+  by_cases h : b = 0 ∧ n = 0
+  · simp [h.1, h.2]
+  · simp only [not_and] at h
+    by_cases hb : b = 0
+    · by_cases hn : n = -1
+      · simp only [hb, Int.cast_zero, zero_mul, hn, Int.reduceNeg, Int.cast_neg, Int.cast_one,
+        zero_add, neg_add_cancel, inv_zero, even_two, Even.neg_pow, one_pow, inv_one, mul_one,
+        δ_eq_two, inv_neg, sub_zero]
+        ring
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: No need to squeeze when followed by a flexible tactic.
```suggestion
      · simp [hb,  hn, δ_eq_two]
        ring
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 34]
```diff
@@ -0,0 +1,250 @@
...
+      · have hn0 : (n : ℂ) ≠ 0 := by aesop
+        have hn1 : (n : ℂ) + 1 ≠ 0 := by norm_cast; grind
+        simp only [hb, δ, Matrix.vecCons_inj, h hb, hn]
+        grind
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion
        simp [δ, h, hb, hn]
        grind
```
(These `grind` goals are also successfully proved by the `field` tactic; I'm not sure which is preferable.)

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 35]
```diff
@@ -0,0 +1,250 @@
...
+        simpa using linear_ne_zero (cd := ![b, n]) z (by aesop)
+      grind
+
+/-- This shows `G2` can be defined as a certain absolutely convergent double sum. -/
+lemma G2_eq_tsum_G2Term (z : ℍ) : G2 z = ∑' m, ∑' n, G2Term z ![m, n] := by
+  set t := ∑' m, ∑' n, (G2Term z ![m, n])
+  rw [G2, show t = t + 0 by ring, ← tsum_tsum_symmetricIco_sub_eq z, ← Summable.tsum_add]
+  · rw [← tsum_eq_of_summable_unconditional (L := symmetricIcc ℤ)]
+    · congr
+      ext a
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion
    · congr with a
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 36]
```diff
@@ -0,0 +1,250 @@
...
+      rw [e2Summand, tsum_eq_of_summable_unconditional
+        (summable_right_one_div_linear_sub_one_div_linear_succ z a), ← Summable.tsum_add
+        ((G2Term_prod_summable z).prod_factor _)
+        (summable_right_one_div_linear_sub_one_div_linear_succ z a)]
+      exact tsum_congr (fun b ↦ by simp [eisSummand, G2Term, aux_identity z a b, zpow_ofNat])
+    · simp_rw [tsum_symmetricIco_linear_sub_linear_add_one_eq_zero z , add_zero]
+      exact (G2Term_prod_summable z).prod
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion
    · simpa only [tsum_symmetricIco_linear_sub_linear_add_one_eq_zero z, add_zero]
        using (G2Term_prod_summable z).prod
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 37]
```diff
@@ -0,0 +1,250 @@
...
+  · grind [(G2Term_prod_summable z).prod.congr]
+  · exact summable_zero.congr
+      (fun b ↦ (by simp [← tsum_symmetricIco_linear_sub_linear_add_one_eq_zero z b]))
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion
  · exact summable_zero.congr
      fun b ↦ by simp [← tsum_symmetricIco_linear_sub_linear_add_one_eq_zero z b]
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 38]
```diff
@@ -0,0 +1,250 @@
...
+
+private lemma G2_S_action_eq_tsum_G2Term (z : ℍ) : ((z : ℂ) ^ 2)⁻¹ * G2 (S • z) - -2 * π * I / z =
+    ∑' n : ℤ, ∑' m : ℤ, G2Term z ![m, n] := by
+  rw [← tsum_symmetricIco_tsum_sub_eq z, ← (tsum_symmetricIco_tsum_eq_S_act z),
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion
  rw [← tsum_symmetricIco_tsum_sub_eq z, ← tsum_symmetricIco_tsum_eq_S_act z,
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 39]
```diff
@@ -0,0 +1,250 @@
...
+    ← tsum_eq_of_summable_unconditional (L := symmetricIco ℤ), ← Summable.tsum_sub]
+  · apply tsum_congr (fun N ↦ ?_)
+    rw [← Summable.tsum_sub]
+    · apply tsum_congr (fun M ↦ ?_)
+      simp only [one_div, G2Term, Fin.isValue, Matrix.cons_val_zero, Matrix.cons_val_one,
+        Matrix.cons_val_fin_one, mul_inv_rev]
+      nth_rw 1 [← aux_identity z M N]
+      ring
+    · simpa using linear_left_summable (ne_zero z) N (k := 2) (by norm_num)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion
    · simpa using linear_left_summable (ne_zero z) N le_rfl
```
(and again below)

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 40]
```diff
@@ -0,0 +1,250 @@
...
+    ∑' m : ℤ, ∑' n : ℤ, G2Term z ![m, n] := by
+  rw [← (finTwoArrowEquiv _).symm.tsum_eq]
+  exact Summable.tsum_prod' (G2Term_prod_summable z) ((G2Term_prod_summable z).prod_factor)
+
+private lemma tsum_G2Term_eq_tsum' (z : ℍ) : ∑' (m : Fin 2 → ℤ), G2Term z m =
+    ∑' n : ℤ, ∑' m : ℤ, G2Term z ![m, n] := by
+  rw [Summable.tsum_comm', tsum_G2Term_eq_tsum]
+  · apply (G2Term_prod_summable z).congr
+    grind [finTwoArrowEquiv_symm_apply, Matrix.cons_val_zero,
+      Matrix.cons_val_one, Matrix.cons_val_fin_one, mul_inv_rev]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: This `congr` isn't actually doing anything, the equality is definitionally true. So
```suggestion
  · exact G2Term_prod_summable z
```
works.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 41]
```diff
@@ -0,0 +1,250 @@
...
+  · simpa [mul_inv_rev] using (G2Term_prod_summable z).prod_factor
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: And again. You could even inline this in the `rw` above.
```suggestion
  · exact (G2Term_prod_summable z).prod_factor
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 42]
```diff
@@ -0,0 +1,250 @@
...
+  · have H := G2Term_summable z
+    rw [← swap_equiv.summable_iff, ← (finTwoArrowEquiv _).symm.summable_iff] at H
+    simpa using H.prod_factor
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: And it's a hat-trick of high-powered tactics used to prove equalities that are true by definition:
```suggestion
    exact H.prod_factor
```
Always worth checking what simp lemmas `simpa` is applying to see if `exact` will work instead.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 43]
```diff
@@ -0,0 +1,250 @@
...
+  tsum_G2Term_eq_tsum]
+
+lemma G2_T_transform : G2 ∣[(2 : ℤ)] T = G2 := by
+  ext z
+  simp_rw [SL_slash_def, modular_T_smul z]
+  simp [G2_eq_tsum_cexp,  T, denom_apply,  ← exp_periodic.nat_mul 1 (2 * π * I * z)]
+  grind
+
+lemma G2_slash_action (γ : SL(2, ℤ)) : G2 ∣[(2 : ℤ)] γ = G2 - D2 γ := by
+  have := Subgroup.closure_induction (p := fun γ _ ↦ G2 ∣[(2 : ℤ)] γ = G2 - D2 γ)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: This is an induction proof, so it will be clearer to use the `induction` tactic explicitly. The proof can start
```lean
lemma G2_slash_action (γ : SL(2, ℤ)) : G2 ∣[(2 : ℤ)] γ = G2 - D2 γ := by
  have : γ ∈ Subgroup.closure {S, T} := by simp [SpecialLinearGroup.SL2Z_generators]
  induction this using Subgroup.closure_induction with
  | one => simp only [SlashAction.slash_one, D2_one, sub_zero]
  | mem g hg => sorry
  | mul g h _ _ ig ih => sorry
  | inv g _ ig => sorry
```
(the `_`'s are useless arguments that `g ∈ ⊤` etc)

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 44]
```diff
@@ -0,0 +1,250 @@
...
+        rw [hg2]
+      simp_rw [← SlashAction.slash_mul, sub_eq_add_neg, SlashAction.add_slash, mul_inv_cancel,
+        SlashAction.slash_one, SL_slash, SlashAction.neg_slash] at H1
+      nth_rw 2 [H1]
+      have := D2_inv g
+      simp only [SL_slash] at this
+      rw [← sub_eq_add_neg, this, SL_slash, sub_neg_eq_add, add_sub_cancel_right]
+  · intro a ha
+    simp only [mem_insert_iff, mem_singleton_iff, SL_slash] at *
+    rcases ha with h1 | h2
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion
  · rintro a (h1 | h2) <;> simp only [mem_singleton_iff, SL_slash] at *
```

**Review by loefflerd — COMMENTED** [review]
Here's some comments on the rest. All this is localized; the overall structure is absolutely spot-on and I'm really happy to see another big chunk of modular form theory make its way into mathlib.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean (hunk 9 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean:164]: I remember wondering about this as well, but yes we can maybe do this in another PR.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean (hunk 18 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: this would have been an `apply?` suggestion I expect.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean (hunk 11 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: Done. I've made the _aux' version into its own lemma `Finset.Int_prod_Ico_div`

File: Mathlib/Algebra/BigOperators/Group/Finset/Interval.lean [hunk 45]
```diff
@@ -44,4 +44,14 @@ lemma prod_Icc_succ_eq_mul_endpoints {R : Type*} [CommGroup R] (f : ℤ → R) {
   · rw [Icc_succ_succ, prod_union (by simp)]
     grind
 
+@[to_additive]
+lemma Int_prod_Ico_div (b : ℕ) {α : Type*} [CommGroup α] (f : ℤ → α) :
```
Comment (loefflerd) [inline Mathlib/Algebra/BigOperators/Group/Finset/Interval.lean]:
```suggestion
lemma prod_Ico_int_div (b : ℕ) {α : Type*} [CommGroup α] (f : ℤ → α) :
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 46]
```diff
@@ -169,19 +169,10 @@ lemma tsum_symmetricIco_tsum_eq_S_act :
...
-  | succ b ihb =>
-    simp only [Nat.cast_add_one, Ico_succ_succ]
-    rw [sum_union (by aesop), sum_insert (by grind), sum_singleton, ihb]
-    grind
-
 private lemma telescope_aux (z : ℂ) (m : ℤ) (b : ℕ) :
     ∑ n ∈ Ico (-b : ℤ) b, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1)) =
     1 / (m * z - b) - 1 / (m * z + b) := by
-  convert telescope_aux' b (fun n ↦ 1 / ((m : ℂ) * z + n)) using 2 <;>
+  convert Finset.Int_sum_Ico_sub b (fun n ↦ 1 / ((m : ℂ) * z + n)) using 2 <;>
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  convert Finset.sum_Ico_int_sub b (fun n ↦ 1 / ((m : ℂ) * z + n)) using 2 <;>
```
(but `Finset` is probably already open, omit it if so)

File: Mathlib/Algebra/BigOperators/Group/Finset/Interval.lean [hunk 47]
```diff
@@ -44,4 +44,14 @@ lemma prod_Icc_succ_eq_mul_endpoints {R : Type*} [CommGroup R] (f : ℤ → R) {
   · rw [Icc_succ_succ, prod_union (by simp)]
     grind
 
+@[to_additive]
+lemma prod_Ico_int_div (b : ℕ) {α : Type*} [CommGroup α] (f : ℤ → α) :
+    ∏ n ∈ Ico (-b : ℤ) b, (f n / f (n + 1)) = f (-b) / f b := by
```
Comment (loefflerd) [inline Mathlib/Algebra/BigOperators/Group/Finset/Interval.lean]:
```suggestion
    ∏ n ∈ Ico (-b : ℤ) b, f n / f (n + 1) = f (-b) / f b := by
```

File: Mathlib/Algebra/BigOperators/Group/Finset/Interval.lean [hunk 48]
```diff
@@ -44,4 +44,14 @@ lemma prod_Icc_succ_eq_mul_endpoints {R : Type*} [CommGroup R] (f : ℤ → R) {
...
+  induction b with
+  | zero => aesop
```
Comment (loefflerd) [inline Mathlib/Algebra/BigOperators/Group/Finset/Interval.lean]:
```suggestion
  | zero => simp
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 49]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+open ModularGroup
+
+variable (z : ℍ)
+
+private lemma one_div_linear_sub_one_div_linear_eq (a b m : ℤ) (hm : m ≠ 0 ∨ (a ≠ 0 ∧ b ≠ 0)) :
+    1 / ((m : ℂ) * z + a) - 1 / (m * z + b) = (b - a) * (1 / ((m * z + a) * (m * z + b))) := by
+  rw [← one_div_mul_sub_mul_one_div_eq_one_div_add_one_div]
+  · grind [one_div, add_sub_add_left_eq_sub, mul_inv_rev]
+  · simpa using UpperHalfPlane.linear_ne_zero z (cd := ![m, a]) (by aesop)
+  · simpa using UpperHalfPlane.linear_ne_zero z (cd := ![m, b]) (by aesop)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: `UpperHalfPlane` is already open.
```suggestion
  · simpa using linear_ne_zero z (cd := ![m, a]) (by aesop)
  · simpa using linear_ne_zero z (cd := ![m, b]) (by aesop)
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 50]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+/- Acting by `S` (which sends `z` to `-z ⁻¹`) swaps the sums and pulls out a factor of
+`(z ^ 2)⁻¹`. -/
+private lemma aux_sum_Ico_S_identity (N : ℕ) :
+    ((z : ℂ) ^ 2)⁻¹ * (∑ x ∈ Ico (-N : ℤ) N, ∑' (n : ℤ), (((x : ℂ) * (-↑z)⁻¹ + n) ^ 2)⁻¹) =
+    ∑' (n : ℤ), ∑ x ∈ Ico (-N : ℤ) N, (((n : ℂ) * z + x) ^ 2)⁻¹ := by
+  simp_rw [inv_neg, mul_neg, mul_sum]
+  rw [Summable.tsum_finsetSum (fun i hi ↦ by apply linear_left_summable (ne_zero z) i le_rfl)]
+  apply sum_congr rfl fun n hn ↦ ?_
+  rw [← tsum_mul_left, ← tsum_comp_neg]
+  apply tsum_congr fun d ↦ by grind [ne_zero z]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: `grind` can see inside foralls, so no need for the `fun d ↦ `.
```suggestion
  apply tsum_congr (by grind [ne_zero z])
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 51]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+        (summable_left_one_div_linear_sub_one_div_linear z (-d) d)).2)).congr
+      grind [Int.cast_neg, Int.cast_natCast, neg_mul, one_div]
+  · simpa using summable_left_one_div_linear_sub_one_div_linear z (-d) d
+
+/- The sum of four terms can now be combined into a sum where `z` has changed for `-1 / z`.-/
+private lemma aux_tsum_identity_2 (d : ℕ+) :
+    ∑' m : ℕ+, (1 / ((m : ℂ) * z - d) + 1 / (-m * z + -d) - (1 / (m * z + d)) -
+    1 / (-m * z + d)) = 2 / z * ∑' m : ℕ+, (1 / (-(d : ℂ) / z - m) + 1 / (-d / z + m)) := by
+  rw [← Summable.tsum_mul_left]
+  · apply tsum_congr (fun m ↦ by grind [sub_eq_add_neg, ← div_neg, ne_zero z])
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: same here:
```suggestion
  · apply tsum_congr (by grind [sub_eq_add_neg, ← div_neg, ne_zero z])
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 52]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+      ∑' m : ℤ , ∑ n ∈ Ico (-N : ℤ) N, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) := by
+    ext n
+    rw [Summable.tsum_finsetSum (fun i hi ↦ ?_)]
+    apply (summable_left_one_div_linear_sub_one_div_linear z i (i + 1)).congr
+    grind
+  simp only [telescope_aux z, aux_tsum_identity_1 z] at this
+  rw [this, show -2 * π * I / z = 0 + -2 * π * I / z by ring]
+  apply Tendsto.add
+  · exact PNat.tendsto_comp_val_iff.mpr <|
+      by simpa using (tendsto_inv_atTop_nhds_zero_nat (𝕜 := ℂ)).const_mul (-2)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  · simpa [← PNat.tendsto_comp_val_iff] using 
      (tendsto_inv_atTop_nhds_zero_nat (𝕜 := ℂ)).const_mul (-2)
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 53]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+  · simpa only [aux_tsum_identity_2] using PNat.tendsto_comp_val_iff.mpr (aux_tendsto_tsum z)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  · simpa only [aux_tsum_identity_2, ← PNat.tendsto_comp_val_iff] using aux_tendsto_tsum z
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 54]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    ∑' (m : ℕ+), (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m))) atTop (𝓝 (-2 * π * I / z)) := by
+  suffices Tendsto (fun n : ℕ+ ↦ (2 / (z : ℂ) * ∑' (m : ℕ+),
+      (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m)))) atTop (𝓝 (-2 * π * I / z)) by
+    rwa [← PNat.tendsto_comp_val_iff]
+  have H0 : (fun n : ℕ+ ↦ (2 / z * ∑' (m : ℕ+), (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m)))) =
+      (fun n : ℕ+ ↦ (-2 * π * I / z) - (2 / z * (2 * π * I)) *
+      (∑' m : ℕ+, cexp (2 * π * I * (-n / z)) ^ (m : ℕ)) + 2 / n) := by
+    ext N
+    have h2 := cot_series_rep (UpperHalfPlane.coe_mem_integerComplement
+      (⟨-N / z, im_pnat_div_pos N z⟩))
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
      ⟨-N / z, im_pnat_div_pos N z⟩)
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 55]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+private lemma aux_tendsto_tsum : Tendsto (fun n : ℕ ↦ 2 / z *
+    ∑' (m : ℕ+), (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m))) atTop (𝓝 (-2 * π * I / z)) := by
+  suffices Tendsto (fun n : ℕ+ ↦ (2 / (z : ℂ) * ∑' (m : ℕ+),
+      (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m)))) atTop (𝓝 (-2 * π * I / z)) by
+    rwa [← PNat.tendsto_comp_val_iff]
+  have H0 : (fun n : ℕ+ ↦ (2 / z * ∑' (m : ℕ+), (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m)))) =
+      (fun n : ℕ+ ↦ (-2 * π * I / z) - (2 / z * (2 * π * I)) *
+      (∑' m : ℕ+, cexp (2 * π * I * (-n / z)) ^ (m : ℕ)) + 2 / n) := by
+    ext N
+    have h2 := cot_series_rep (UpperHalfPlane.coe_mem_integerComplement
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: The following *should* work, but currently doesn't, because of the namespacing glitch that I pointed out on your other recent PR:
```suggestion
    have h2 := cot_series_rep (coe_mem_integerComplement
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 56]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+      (⟨-N / z, im_pnat_div_pos N z⟩))
+    rw [pi_mul_cot_pi_q_exp, ← sub_eq_iff_eq_add',coe_mk_subtype, one_div, inv_div, neg_mul, ← h2,
+      ← tsum_zero_pnat_eq_tsum_nat
+      (by simpa using norm_exp_two_pi_I_lt_one ⟨-N / z, im_pnat_div_pos N z⟩)] at *
+    grind [ne_zero z]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
    field [ne_zero z]
```
cf. [this zulip thread](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Which.20is.20faster.2C.20grind.20or.20ring/with/570255434) about `grind` vs `ring` / `field`

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 57]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+  simp only [coe_mk_subtype, ← exp_nsmul, nsmul_eq_mul, Nat.cast_mul] at *
+  exact this.congr <| by grind
+
+/- Now this sum of terms with `-1 / z` tendsto `-2 * π * I / z` which is exactly `D2_S`. The key is
+to use the cotangent series to write this as a sum of exponentials.-/
+private lemma aux_tendsto_tsum : Tendsto (fun n : ℕ ↦ 2 / z *
+    ∑' (m : ℕ+), (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m))) atTop (𝓝 (-2 * π * I / z)) := by
+  suffices Tendsto (fun n : ℕ+ ↦ (2 / (z : ℂ) * ∑' (m : ℕ+),
+      (1 / (-(n : ℂ) / z - m) + 1 / (-n / z + m)))) atTop (𝓝 (-2 * π * I / z)) by
+    rwa [← PNat.tendsto_comp_val_iff]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  rw [← PNat.tendsto_comp_val_iff]
```
(this was precisely why I suggested adding `PNat.tendsto_comp_val_iff`)

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 58]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+lemma tsum_symmetricIco_tsum_sub_eq :
+    ∑'[symmetricIco ℤ] n : ℤ, ∑' m : ℤ, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1)) =
+    -2 * π * I / z := by
+  apply HasSum.tsum_eq
+  simp only [one_div, neg_mul, HasSum, symmetricIco, ← Nat.map_cast_int_atTop, Filter.map_map,
+    tendsto_map'_iff] at *
+  suffices H : Tendsto (fun N : ℕ ↦ ∑ n ∈ Ico (-N : ℤ) N,
+      ∑' m : ℤ, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) atTop (𝓝 (-2 * π * I / z)) by
+    simpa using H.congr (by simp)
+  exact PNat.tendsto_comp_val_iff.mp (tendsto_tsum_one_div_linear_sub_succ_eq z)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  simpa [HasSum, ← Nat.map_cast_int_atTop, ← PNat.tendsto_comp_val_iff] 
    using tendsto_tsum_one_div_linear_sub_succ_eq z
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 59]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    ∑' m : ℤ, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) atTop (𝓝 (-2 * π * I / z)) := by
+  have : (fun N : ℕ+ ↦ ∑ n ∈ (Ico (-N : ℤ) N),
+      ∑' m : ℤ , (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) = (fun N : ℕ+ ↦
+      ∑' m : ℤ , ∑ n ∈ Ico (-N : ℤ) N, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) := by
+    ext n
+    rw [Summable.tsum_finsetSum (fun i hi ↦ ?_)]
+    apply (summable_left_one_div_linear_sub_one_div_linear z i (i + 1)).congr
+    grind
+  simp only [telescope_aux z, aux_tsum_identity_1 z] at this
+  rw [this, show -2 * π * I / z = 0 + -2 * π * I / z by ring]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  rw [funext this, show -2 * π * I / z = 0 + -2 * π * I / z by ring]
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 60]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+    Tendsto (fun N : ℕ+ ↦ ∑ n ∈ Ico (-N : ℤ) N,
+    ∑' m : ℤ, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) atTop (𝓝 (-2 * π * I / z)) := by
+  have : (fun N : ℕ+ ↦ ∑ n ∈ (Ico (-N : ℤ) N),
+      ∑' m : ℤ , (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) = (fun N : ℕ+ ↦
+      ∑' m : ℤ , ∑ n ∈ Ico (-N : ℤ) N, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) := by
+    ext n
+    rw [Summable.tsum_finsetSum (fun i hi ↦ ?_)]
+    apply (summable_left_one_div_linear_sub_one_div_linear z i (i + 1)).congr
+    grind
+  simp only [telescope_aux z, aux_tsum_identity_1 z] at this
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  simp only [telescope_aux, aux_tsum_identity_1] at this
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 61]
```diff
@@ -90,4 +112,171 @@ lemma G2_eq_tsum_symmetricIco : G2 z = ∑'[symmetricIco ℤ] m, e2Summand m z :
...
+/- This shows that the limit of the conditional sum over larger intervals tends
+to `-2 * π * I / z`. We will then show, in `tsum_tsum_symmetricIco_sub_eq` that if we swap the
+order of the sum it tends to `0` instead. -/
+lemma tendsto_tsum_one_div_linear_sub_succ_eq :
+    Tendsto (fun N : ℕ+ ↦ ∑ n ∈ Ico (-N : ℤ) N,
+    ∑' m : ℤ, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) atTop (𝓝 (-2 * π * I / z)) := by
+  have : (fun N : ℕ+ ↦ ∑ n ∈ (Ico (-N : ℤ) N),
+      ∑' m : ℤ , (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) = (fun N : ℕ+ ↦
+      ∑' m : ℤ , ∑ n ∈ Ico (-N : ℤ) N, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))) := by
+    ext n
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: If you use `funext` in the `rw` below, then you can state this more cleanly here:
```suggestion
  have (N : ℕ+) : 
      ∑ n ∈ Ico (-N : ℤ) N, ∑' m : ℤ , (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1))
      = ∑' m : ℤ , ∑ n ∈ Ico (-N : ℤ) N, (1 / ((m : ℂ) * z + n) - 1 / (m * z + n + 1)) := by
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 62]
```diff
@@ -0,0 +1,241 @@
...
+/-- The equivalence on `Fin 2 → α` given by swapping the two coordinates. -/
+def piFinTwoSwap {α : Type*} : Equiv.Perm (Fin 2 → α) where
+  toFun b := ![b 1, b 0]
+  invFun b := ![b 1, b 0]
+  left_inv b := by ext i; fin_cases i <;> rfl
+  right_inv b := by ext i; fin_cases i <;> rfl
+
+@[simp]
+lemma piFinTwoSwap_apply {α : Type*} (b : Fin 2 → α) : piFinTwoSwap b = ![b 1, b 0] := rfl
+section transform
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion

section transform
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 63]
```diff
@@ -0,0 +1,241 @@
...
+
+@[simp]
+private lemma δ_eq_two : δ ![0, -1] = 2 := by simp [δ]
+
+/-- This term gives an alternative infinite sum for G2 which is absolutely convergent. -/
+abbrev G2Term (z : ℍ) (m : Fin 2 → ℤ) : ℂ :=
+    (((m 0 : ℂ) * z + m 1) ^ 2 * (m 0 * z + m 1 + 1))⁻¹ + δ m
+
+/-- The equivalence on `Fin 2 → α` given by swapping the two coordinates. -/
+def piFinTwoSwap {α : Type*} : Equiv.Perm (Fin 2 → α) where
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: ~~This could go in `Mathlib.Data.Fin.VecNotation` if you're feeling bold.~~ EDIT: It isn't actually needed at all, see below.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 64]
```diff
@@ -0,0 +1,241 @@
...
+    simp_rw [G2Term, add_sub_cancel_right]
+    apply summable_of_isBigO_rpow_norm (a := 3) (by linarith)
+    simpa [pow_three, pow_two, ← mul_assoc] using ((isBigO_linear_add_const_vec z 0 1).mul
+      (isBigO_linear_add_const_vec z 0 0)).mul (isBigO_linear_add_const_vec z 0 0)
+  let s : Finset (Fin 2 → ℤ) := {![0,0], ![0,-1]}
+  rw [← Finset.summable_compl_iff s]
+  apply (H.subtype sᶜ).congr (fun b ↦ ?_)
+  have hb1 : b.1 ≠ ![0, 0] := by aesop
+  have hb2 : b.1 ≠ ![0, -1] := by aesop
+  simp [δ, hb1, hb2]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: This is a little ugly. Here's an alternative suggestion. Maybe add this lemma (privately if you like):
```lean
lemma δ_eventually_cofinite : δ =ᶠ[cofinite] 0 := by
  filter_upwards [eventually_cofinite_ne ![0, 0], eventually_cofinite_ne ![0, -1]] with x hx hx'
  simp_all [δ]
```
Then the rest of this proof can just become
```suggestion
  exact H.congr_cofinite <| δ_eventually_cofinite.mp <| .of_forall <| by simp +contextual
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 65]
```diff
@@ -0,0 +1,241 @@
...
+      · have hn0 : (n : ℂ) ≠ 0 := by aesop
+        have hn1 : (n : ℂ) + 1 ≠ 0 := by norm_cast; grind
+        simp [δ, h, hb, hn]
+        grind
+    · simp only [δ, Matrix.vecCons_inj, hb]
+      have h0 : ((b : ℂ) * z + n + 1) ≠ 0 := by
+        simpa [add_assoc] using linear_ne_zero (cd := ![b, n + 1]) z (by aesop)
+      have h1 : ((b : ℂ) * z + n) ≠ 0 := by
+        simpa using linear_ne_zero (cd := ![b, n]) z (by aesop)
+      grind
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion
    · have h0 : (b : ℂ) * z + n + 1 ≠ 0 := by
        simpa [add_assoc] using linear_ne_zero (cd := ![b, n + 1]) z (by aesop)
      have h1 : (b : ℂ) * z + n ≠ 0 := linear_ne_zero (cd := ![b, n]) z (by aesop)
      simp [δ]
      grind
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 66]
```diff
@@ -0,0 +1,241 @@
...
+  · apply HasSum.summable (a := (z.1 ^ 2)⁻¹ * G2 (S • z))
+    rw [hasSum_symmetricIco_int_iff]
+    apply (tendsto_double_sum_S_act z).congr (fun x ↦ ?_)
+    rw [Summable.tsum_finsetSum (fun i hi ↦ ?_)]
+    simpa using linear_left_summable (ne_zero z) i (k := 2) (by norm_num)
+  · apply HasSum.summable (a := -2 * π * I / z)
+    rw [hasSum_symmetricIco_int_iff, ← tendsto_comp_val_Ioi_atTop]
+    exact tendsto_tsum_one_div_linear_sub_succ_eq z
+  · have := G2Term_summable z
+    rw [← piFinTwoSwap.summable_iff, ← (finTwoArrowEquiv _).symm.summable_iff] at this
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: So I didn't realise until now that in both the places where you use `piFinTwoSwap`, you immediately combine it with `finTwoArrowEquiv`. But then you don't need `piFinTwoSwap` at all, since there is already `Equiv.prodComm` (the swapping equiv on the `Prod` type). So you can make this line into
```suggestion
    rw [← ((finTwoArrowEquiv _).trans (.prodComm ..)).symm.summable_iff] at H
```
and similarly in the next proof.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean (hunk 55 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: ok so I've made the fixes suggested in the other PR here so that this now works

Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]: Great, thanks!

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 67]
```diff
@@ -0,0 +1,230 @@
...
+4. **General γ**: Since `SL₂(ℤ)` is generated by `S` and `T`, and we've
+   computed the transformation under both generators, we can deduce the transformation under
+   any element using the cocycle property of `D₂`.
+
+## References
+* P. Bruin and S. Dahmen, Modular Forms, https://www.few.vu.nl/~sdn249/modularforms16/notes.pdf
+
+-/
+
+@[expose] public section
```
Comment (jcommelin) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: Should this be moved lower down in the file, so that you can drop all the `private` keywords, and also make the aux `def`s private at the same time?

Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: Sorry I am still getting use to how `@[expose] public section` works. I moved it to the sections where the results we'll want to use elsewhere are. I am using this right?  I'm sorry for the silly question, I've not yet completely understood how this works.

Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]: Not a silly question at all; I don't understand very well how this works either.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean [hunk 68]
```diff
@@ -0,0 +1,232 @@
...
+
+open scoped Real Topology
+
+noncomputable section
+
+namespace EisensteinSeries
+
+/-- This is an auxiliary correction term for proving how E2 transforms. It allows us to work with
+nicer indexing sets for our infinite sums. The key is the `aux_identity` below. -/
+private def δ (x : Fin 2 → ℤ) : ℂ := if x = ![0,0] then 1 else if x = ![0, -1] then 2 else 0
```
Comment (jcommelin) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Transform.lean]:
```suggestion
def δ (x : Fin 2 → ℤ) : ℂ := if x = ![0,0] then 1 else if x = ![0, -1] then 2 else 0
```

I'm also still very much a module-system-newbie, but my understanding is that this is already private.

**Review by jcommelin — COMMENTED** [review]
LGTM

bors d+
